US08217043B2
f) 1-[Benzyl-(2-ethoxycarbonyl-acetyl)-amino]-3,4,5-trichloro-1H-pyrrole-2-carboxylic acid methyl ester
A mixture of 1-benzylamino-3,4,5-trichloro-1H-pyrrole-2-carboxylic acid methyl ester (394 mg, 1.18 mmol) and chlorocarbonyl-acetic acid ethyl ester (227 μL, 1.77 mmol) in dioxane (5 mL) was stirred under reflux for 30 min; then the reaction mixture was cooled and the solvents were removed, the residue was directly silica gel column purified to give the desired product (278 mg) as colorless syrup. ESI (m/z): 447 (M+H)+.

reactant | 1-benzylamino-3,4,5-trichloro-1H-pyrrole-2-carboxylic acid methyl ester | 1.18 mmol, 394 mg | COC(=O)C=1N(C(=C(C1Cl)Cl)Cl)NCC1=CC=CC=C1 | C13H11Cl3N2O2
reactant | chlorocarbonyl-acetic acid ethyl ester | 1.77 mmol, 227 μL | C(C)OC(CC(=O)Cl)=O | C5H7ClO3
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-[Benzyl-(2-ethoxycarbonyl-acetyl)-amino]-3,4,5-trichloro-1H-pyrrole-2-carboxylic acid methyl ester | 278 mg | COC(=O)C=1N(C(=C(C1Cl)Cl)Cl)N(C(CC(=O)OCC)=O)CC1=CC=CC=C1 | C18H17Cl3N2O5
